US05587386
8-amino-5-oxo-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane:
To a solution of 8.75 g of 6-[1-(R)-phenylethyl]-8-hydroxyimino-5-oxo-6-azaspiro[3.4]octane in 300 ml of methanol there was added 26 ml of Raney nickel, and reduction was carried out under a hydrogen atmosphere at room temperature for 14.5 hr. The catalyst was removed by filtration and the solvent was removed under reduced pressure. By the same procedure, 1.65 g of 6-[1-(R)-phenylethyl]-8-hydroxyimino-5-oxo-6-azaspiro-[3.4]octane was reduced using 5 ml of Raney nickel. The crude products were combined and purified by column chromatography using a column containing 380 g of silica gel. From a fraction of an eluant of 1% (v/v) methanolic chloroform, 3.2 g of the less polar isomer of the titled compound was obtained and 1.8 g of the more polar isomer thereof along with 4.4 g of a mixture of the two isomers.

reactant | 6-[1-(R)-phenylethyl]-8-hydroxyimino-5-oxo-6-azaspiro[3.4]octane | 8.75 g | C1(=CC=CC=C1)[C@@H](C)N1C(C2(CCC2)C(C1)=NO)=O | C15H18N2O2
solvent | methanol | 300 ml | CO | CH4O
catalyst | Raney nickel | 26 ml | [Ni] | Ni
product | 8-amino-5-oxo-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane | NC1CN(C(C12CCC2)=O)[C@H](C)C2=CC=CC=C2 | C15H20N2O
